US08426420B2
4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid benzyl ester
To a solution of 100 mg (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester in 5 ml DMF were added 55 μl DIPEA, 64 mg HATU and 56 mg piperazine-1-carboxylic acid benzyl ester. After stirring for 24 h the solution was concentrated, the residue dissolved in 1.5 ml dichloromethane and treated with 360 μl TFA. After stirring for 4 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product.

reactant | (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester | 100 mg | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C30H39N5O8
reactant | DIPEA | 55 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 64 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperazine-1-carboxylic acid benzyl ester | 56 mg | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C38H45N7O9
